US04831151
1.43 g (6.8 mmol) of 4-dimethylamino-3,5-dimethoxy-benzaldehyde are added to a solution of 0.60 g (3.4 mmol) of 1,3-diamino-2-propyl-imidazolium chloride in 5 ml of glacial acetic acid. After leaving to stand for 16 hours the product is crystallized out by the addition of ether and then recrystallized from ethanol. There is obtained 1,3-bis[[4-(dimethylamino)-3,5-dimethoxybenzylidene]amino]-2-propylimidazolium chloride of melting point 218°-219°.

reactant | 4-dimethylamino-3,5-dimethoxy-benzaldehyde | 6.8 mmol, 1.43 g | CN(C1=C(C=C(C=O)C=C1OC)OC)C | C11H15NO3
reactant | 1,3-diamino-2-propyl-imidazolium chloride | 3.4 mmol, 0.60 g | [Cl-].N[N+]1=C(N(C=C1)N)CCC
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[4-(dimethylamino)-3,5-dimethoxybenzylidene]amino]-2-propylimidazolium chloride | [Cl-].CN(C1=C(C=C(C=N[N+]2=C(N(C=C2)N=CC2=CC(=C(C(=C2)OC)N(C)C)OC)CCC)C=C1OC)OC)C | InChI=1S/C28H39N6O4.ClH/c1-10-11-26-33(29-18-20-14-22(35-6)27(31(2)3)23(15-20)36-7)12-13-34(26)30-19-21-16-24(37-8)28(32(4)5)25(17-21)38-9;/h12-19H,10-11H2,1-9H3;1H/q+1;/p-1
